US04529698
(E) (3S-cis)-3-t-Butoxycarbonylamino-4-methylazetidinone
Sodium (1.35 g) is dissolved in about 300 ml of liquid ammonia at -50° C. and 5.87 g of (3S-cis)-3-t-Butoxycarbonylamino-1-methoxy-4-methylazetidinone in 35 ml tetrahydrofuran is added dropwise via syringe. An additional 10 ml of tetrahydrofuran is used for rinsing. Near the end of the addition about 100 mg of additional sodium is added. The mixture is stirred for five more minutes, then quenched by adding 3.35 g of solid ammonium chloride in one portion. Ammonia is blown off with a nitrogen stream and 250 ml of ethyl acetate is added to the residue. After filtration and washing the solid with ethyl acetate, the combined filtrate is stripped of solvent to give 4.82 g of the title compound.

reactant | Sodium | 1.35 g | [Na] | Na
reactant | (3S-cis)-3-t-Butoxycarbonylamino-1-methoxy-4-methylazetidinone | 5.87 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@@H]1C)OC)=O | C10H18N2O4
solvent | ammonia | N | H3N
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3S-cis)-3-t-Butoxycarbonylamino-4-methylazetidinone | 4.82 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N[C@@H]1C)=O | C9H16N2O3
